US04954518
80 ml of dioxane and 40 ml of 6N hydrochloric acid were added to 4.03 g of 3-ethoxycarbonyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one. The mixture was refluxed for 30 minutes. The reaction mixture was cooled. 200 ml of water was added thereto. The resulting crystal was collected by filtration, washed with water and recrystallized from acetic acid to obtain 3.41 g (yield: 91%) of 3-carboxy-7-methylsulfonylamino-6-phenoxy4H-1-benzopyran-4-one having a melting point of >250° C.

reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 6N, 40 ml | Cl | ClH
reactant | 3-ethoxycarbonyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 4.03 g | C(C)OC(=O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C19H17NO7S
solvent | water | 200 ml | O | H2O
product | 3-carboxy-7-methylsulfonylamino-6-phenoxy4H-1-benzopyran-4-one | 3.41 g, yield: 91% | C(=O)(O)C1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO7S
